US05919806
0.20 g (0.65 mmol) of 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-(1-pyrrolidinyl)-6-amino-7-nitro-2H-benzo[b]pyran were dissolved in 34.9 g of ethanol and hydrogen gas was blown in the presence of 0.15 g of 5% palladium-carbon, as a catalyst, at room temperature for 3 hours under one atmospheric pressure while stirring. The reaction liquid was filtered under suction to remove the catalyst therefrom, and the solvent was distilled off to obtain 170 mg (yield: 94%) of 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-(1-pyrrolidinyl)-6,7-diamino-2H-benzo[b]pyran as a dark red oil.

reactant | 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-(1-pyrrolidinyl)-6-amino-7-nitro-2H-benzo[b]pyran | 0.65 mmol, 0.20 g | CC1(C(C(C2=C(O1)C=C(C(=C2)N)[N+](=O)[O-])N2CCCC2)O)C | C15H21N3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 34.9 g | C(C)O | C2H6O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-(1-pyrrolidinyl)-6,7-diamino-2H-benzo[b]pyran | 170 mg, yield: 94% | CC1(C(C(C2=C(O1)C=C(C(=C2)N)N)N2CCCC2)O)C | C15H23N3O2
